US07902373B2
Methyl 6-chloronicotinate (1.00 g, 5.83 mmol) and (2-cyanophenyl)boronic acid (856 mg, 5.83 mmol) were added to 1,4-dioxane (50 mL). To this was added 14.6 mL of a 2 M solution of aqueous potassium carbonate and tetrakis(triphenylphosphine)palladium(0) (337 mg, 0.291 mmol). The above reagents were heated at reflux for 5 hours. The reaction was cooled to room temperature and partitioned between ethyl acetate (50 mL) and water (20 mL), the phases were separated and the organic layer was dried over anhydrous MgSO4, filtered and evaporated to a gum. The solid was purified using chromatography on silica eluting with a mixture of heptane: ethyl acetate 80:20, 70:30, 30:70. The product fractions were combined and evaporated to give methyl 6-(2-cyanophenyl)nicotinate as a white solid (195 mg). LCMS (ES+) 239 (M+1), 1.37 minutes; 1H NMR (400 MHz CDCl3) ppm 4.00 (s, 3H) 7.58 (t, J=7.4 Hz, 1H) 7.74 (d, J=6.2 Hz, 1H) 7.85 (d, J=7.8 Hz, 1H) 7.90 (m, 2H) 8.45 (dd, J=5.8, 2.4 Hz, 1H) 9.37 (d, J=2.0, Hz, 1H).

reactant | Methyl 6-chloronicotinate | 5.83 mmol, 1.00 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | (2-cyanophenyl)boronic acid | 5.83 mmol, 856 mg | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.291 mmol, 337 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | methyl 6-(2-cyanophenyl)nicotinate | 195 mg | C(#N)C1=C(C=CC=C1)C1=NC=C(C(=O)OC)C=C1 | C14H10N2O2
